US07713994B2
6-Iodo-4-{[(5-oxo-pyrrolidin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
5-Aminomethyl-pyrrolidin-2-one (140 mg, ˜80-90% pure, 1.04 mmol) is stirred with 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (150 mg, 0.46 mmol) in N,N-dimethylformamide (5 mL) at room temperature. The suspension become clear in 10 minutes and further stirring gave a pale yellow precipitate. The precipitate is filtered and washed with MeOH, Et2O and dried to provide the title compound (110 mg, 58%). MS (ESI): 411.8 (M+1)+1.

reactant | 5-Aminomethyl-pyrrolidin-2-one | 1.04 mmol, 140 mg | NCC1CCC(N1)=O | C5H10N2O
reactant | 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.46 mmol, 150 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-Iodo-4-{[(5-oxo-pyrrolidin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | 110 mg, 58% | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1NC(CC1)=O | C15H14IN3O3
